US06692889B1
Production of 1-(1-Acryloyloxy-1,2-dimethylpropyl)-3-hydroxyadamantane [4-6 (Acrylate)]
A total of 10 mmole of acrylyl chloride was added dropwise to a mixture of 10 mmole of 3-hydroxy-α-isopropyl-α-methyl-1-adamantanemethanol thus obtained, 10 mmole of triethylamine and 40 ml of tetrahydrofuran over about 30 minutes. After the completion of addition, the resulting mixture was stirred at room temperature for 6 hours. After adding water, the reaction mixture was concentrated, and the concentrate was subjected to column chromatography on a silica gel to thereby yield the title compound in a yield of 67%.

reactant | acrylyl chloride | 10 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | 3-hydroxy-α-isopropyl-α-methyl-1-adamantanemethanol | 10 mmole | OC12CC3(CC(CC(C1)C3)C2)C(O)(C)C(C)C | C15H26O2
reactant | triethylamine | 10 mmole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Acryloyloxy-1,2-dimethylpropyl)-3-hydroxyadamantane | yield of 67% | C(C=C)(=O)OC(C(C)C)(C)C12CC3(CC(CC(C1)C3)C2)O | C18H28O3
